US07985768B2
2-Oxatricyclo[3.3.1.13,7]decane-1-carboxylic acid
To a solution of 2-oxatricyclo[3.3.1.13,7]decane-1-carboxylic acid methyl ester (2.5 g, 12.6 mmol, prepared as described by Partch, R.; Brewster, W.; Stokes, B., Croatia Chemical Acta (1969), 58(4), 661-669) in 1:1 methanol/water (100 mL) was added 5 N aqueous NaOH (3.8 mL, 19 mmol). The mixture was stirred at room temperature for 3 hours and then extracted with methylene chloride to remove unreacted starting material. The aqueous layer was acidified (pH˜2) with 6 N aqueous HCl and then extracted with methylene chloride. The combined acidic extracts were dried (Na2SO4), filtered and concentrated to afford 1.92 g of the title compound. MS (ESI+) m/z 183 (M+H)+.

reactant | 2-oxatricyclo[3.3.1.13,7]decane-1-carboxylic acid methyl ester | 12.6 mmol, 2.5 g | COC(=O)C12OC3CC(CC(C1)C3)C2 | C11H16O3
reactant | NaOH | 19 mmol, 5 N, 3.8 mL | [OH-].[Na+]
solvent | methanol water | 100 mL | CO.O
product | 2-Oxatricyclo[3.3.1.13,7]decane-1-carboxylic acid | 1.92 g | C12(OC3CC(CC(C1)C3)C2)C(=O)O | C10H14O3
